US07259183B2
Preparation of [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-fluoro-ethyl]-amine
159 mg of [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine (0.5 mmol, described in example S43) in 5 ml DCM was cooled to 2° C. and treated with 0.2 ml of DAST (1.5 mmol) for 2 min. After 2 h stirring at 0° C. followed by 1 h at rt, the reaction mixture was again cooled down to 0° C. and treated with 5 ml saturated aqueous sodium bicarbonate. The reaction mixture was stirred until CO2 evolution stopped, then the organic phase was separated, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was Purified by silicagel chromatography (40 g silica gel; heptane/EtOAc 2:1) leading to 27 mg of a light yellow semi-solid (17%). M(ISP) 320.3 (M+H)+.

reactant | [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine | 0.5 mmol, 159 mg | C(C)(C)(C)C1=CC=C(CNCC(O)C2=CC=C(C=C2)Cl)C=C1 | C19H24ClNO
reactant | DAST | 1.5 mmol, 0.2 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-fluoro-ethyl]-amine | C(C)(C)(C)C1=CC=C(CNCC(F)C2=CC=C(C=C2)Cl)C=C1 | C19H23ClFN
